US04181800
N,N-Dimethyl-1,3-propanediamine (1.32 g.) was added to a mixture of methanol (30 ml.) and chloroform (18 ml.) containing 2-(2-oxo-3-phthalimido-1-azetidinyl)-2-(2-thienyl)acetate (2.22 g.), whereafter the mixture was stirred at ambient temperature overnight. After the reaction, the reaction mixture was evaporated to dryness under reduced pressure to give a residue, which was dissolved in ethyl acetate. The solution was extracted with three portions of an aqueous solution consisting of 1 N hydrochloric acid (6.4 ml.) and water (10 ml.). The combined aqueous extracts were adjusted to pH8 with sodium bicarbonate and then saturated with sodium chloride. The solution was extracted with ethyl acetate and the extract was washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. The solution was evaporated to dryness under reduced pressure to give a residue (1.57 g.), which was subjected to column chromatography on silica gel (25 g.). Elution was carried out with chloroform and the fractions containing a desired compound were collected. The solvent was removed by distillation from the solution under reduced pressure to give methyl 2-(3-amino-2-oxo-1-azetidinyl)-2-(2-thienyl)acetate (0.96 g.).

reactant | N,N-Dimethyl-1,3-propanediamine | 1.32 g | CN(CCCN)C | C5H14N2
reactant | methanol | 30 ml | CO | CH4O
reactant | chloroform | 18 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(2-oxo-3-phthalimido-1-azetidinyl)-2-(2-thienyl)acetate | 2.22 g | O=C1N(CC1N1C(C=2C(C1=O)=CC=CC2)=O)C(C(=O)[O-])C=2SC=CC2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(3-amino-2-oxo-1-azetidinyl)-2-(2-thienyl)acetate | 0.96 g | NC1C(N(C1)C(C(=O)OC)C=1SC=CC1)=O | C10H12N2O3S
